US04886814
N-[2-(4-Carbomethoxymethoxyphenyl)-1-methylethyl]-2-hydroxy-2-(2-trifluoromethyl-5-methyl-thiazol-4-yl)ethanamine
Prepared analogously to Example 3 by reaction of 2-trifluoromethyl-5-methyl-4-bromoacetyl-thiazole with 2-(4-carbomethoxymethoxyphenyl)-1-methylethylamine followed by reduction. The compound is purified on a silica gel column using ethyl acetate/methanol=9/1 as eluant.

reactant | 2-trifluoromethyl-5-methyl-4-bromoacetyl-thiazole | FC(C=1SC(=C(N1)C(CBr)=O)C)(F)F | C7H5BrF3NOS
reactant | 2-(4-carbomethoxymethoxyphenyl)-1-methylethylamine | C(=O)(OC)COC1=CC=C(C=C1)CC(C)N | C12H17NO3
product | N-[2-(4-Carbomethoxymethoxyphenyl)-1-methylethyl]-2-hydroxy-2-(2-trifluoromethyl-5-methyl-thiazol-4-yl)ethanamine | C(=O)(OC)COC1=CC=C(C=C1)CC(C)NCC(C=1N=C(SC1C)C(F)(F)F)O | C19H23F3N2O4S
